US07939539B2
Step 6: N-(3-aminopropyl)-N-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-(dimethylamino)-2-oxoethyl]-4-methylbenzamide.
To a solution of tert-butyl 3-[[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-2-(dimethylamino)-2-oxoethyl](4-methylbenzoyl)amino]propylcarbamate (500 mg), was added 20% solution of trifluoroacetic acid in methylene chloride at room temperature. The mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure. The crude product was purified by flash chromatography to give N-(3-aminopropyl)-N-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-2-(dimethylamino)-2-oxoethyl]-4-methylbenzanide (336 mg) as a white solid.

reactant | tert-butyl 3-[[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydroquinazolin-2-yl)-2-(dimethylamino)-2-oxoethyl](4-methylbenzoyl)amino]propylcarbamate | 500 mg | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(=O)N(C)C)N(CCCNC(OC(C)(C)C)=O)C(C1=CC=C(C=C1)C)=O | C35H40ClN5O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3-aminopropyl)-N-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-(dimethylamino)-2-oxoethyl]-4-methylbenzamide | NCCCN(C(C1=CC=C(C=C1)C)=O)C(C(=O)N(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl | C30H32ClN5O3
